US04895860
Step (1) Preparation of 3-(4-Bromothiophenoxy)-2-chloro-1-propene
According to the procedure of W. K. Anderson et al., J. Chem. Soc., Perkin 1, 1 (1976) a mixture of 4-bromothiophenol (40.0 g, 0.211 mol) and K2CO3 (35.3 g, 0.254 mol) was heated at reflux for 1 hour. 2,3-Dichloro-1-propene (23.5 g, 0.211 mol) was added. The resulting mixture was heated at reflux for 2 hours, cooled and concentrated. The mixture was diluted with H2O and extracted with ether (3×150 mL). The combined extracts were dried (MgSO4), and concentrated to give an oil. Distillation under high vacuum gave 37.2 g (67%) of product as a colorless liquid.

reactant | 4-bromothiophenol | 0.211 mol, 40.0 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | K2CO3 | 0.254 mol, 35.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,3-Dichloro-1-propene | 0.211 mol, 23.5 g | ClC(=C)CCl | C3H4Cl2
product | 3-(4-Bromothiophenoxy)-2-chloro-1-propene | 37.2 g, 67% | BrC1=CC=C(SCC(=C)Cl)C=C1 | C9H8BrClS
